US09340556B2
To a suspension of 8-bromo-1-methyl-4-oxo-1,4-dihydroquinolin-3-yl acetate (3.68 g, 10.56 mmol) in methanol (100 mL) was added aqueous 2 M KOH (15 mL), the mixture turned into a brown solution and was stirred at room temperature for 1 h. The reaction mixture was concentrated, and was then partitioned between dichloromethane and brine. The organic phase was separated, the aqueous phase was extracted with dichloromethane for several times. The combined organic extracts were dried (Na2SO4), filtered and the solvent was removed in vacuo. The residue was then absorbed onto silica gel and purified by automatic silica gel column chromatography (Combiflash RF), eluting with MeOH/dichloromethane (0-5%) to afford 8-bromo-3-hydroxy-1-methylquinolin-4(1H)-one (2.47 g, 9.24 mmol, 87% yield) as a brown solid. LCMS: (M+H)+: 254.1

reactant | 8-bromo-1-methyl-4-oxo-1,4-dihydroquinolin-3-yl acetate | 10.56 mmol, 3.68 g | C(C)(=O)OC1=CN(C2=C(C=CC=C2C1=O)Br)C | C12H10BrNO3
reactant | KOH | 2 M, 15 mL | [OH-].[K+]
solvent | methanol | 100 mL | CO | CH4O
product | 8-bromo-3-hydroxy-1-methylquinolin-4(1H)-one | 9.24 mmol, 2.47 g, 87% yield | BrC=1C=CC=C2C(C(=CN(C12)C)O)=O | C10H8BrNO2
